US06242600B1
4-Oxo-4-(4-pyridin-2-ylpiperazin-1-yl)butanoic Acid
A solution of 1-(2-pyridyl)piperazine (1.63 g) and succinic anhydride (1.1 g) in dimethylf ormamide (5 ml) was stirred for 24 hours at room temperature. The reaction mixture was reduced under reduced pressure and the concentrate was recrystallized from ethanol to give the titled compound (1.7 g) as a pale yellow crystal.

reactant | 1-(2-pyridyl)piperazine | 1.63 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | succinic anhydride | 1.1 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dimethylf ormamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Oxo-4-(4-pyridin-2-ylpiperazin-1-yl)butanoic Acid | 1.7 g | O=C(CCC(=O)O)N1CCN(CC1)C1=NC=CC=C1 | C13H17N3O3
